US08227613B2
G) 1,4-Dimethyl-2-oxo-6-(3-trifluoromethyl-phenyl)-1,2-dihydro-pyridine-3-carboxylic acid
To a solution of 0.60 g (1.8 mmol) of 1,4-dimethyl-2-oxo-6-(3-trifluoromethyl-phenyl)-1,2-dihydro-pyridine-3-carboxylic acid methyl ester 4.0 ml of THF/MeOH (1:1) was added 11.0 ml (11.0 mmol) of lithium hydroxide solution (1 molar in water) and the reaction mixture was then heated up to 60° C. After 7 hours, the solvents were evaporated and the residue poured into crashed ice, acidified with 2N HCl and extracted twice with CH2Cl2; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (CH2Cl2/MeOH 1:0 to 95:5) to give 0.53 g (94%) of the title compound as light yellow solid. MS: 310.1 (M−H−).

reactant | 1,4-dimethyl-2-oxo-6-(3-trifluoromethyl-phenyl)-1,2-dihydro-pyridine-3-carboxylic acid methyl ester | 1.8 mmol, 4.0 ml, 0.60 g | COC(=O)C=1C(N(C(=CC1C)C1=CC(=CC=C1)C(F)(F)F)C)=O | C16H14F3NO3
reactant | lithium hydroxide | 11.0 mmol, 1 molar, 11.0 ml | [OH-].[Li+]
solvent | THF MeOH | C1CCOC1.CO
product | 1,4-Dimethyl-2-oxo-6-(3-trifluoromethyl-phenyl)-1,2-dihydro-pyridine-3-carboxylic acid | 0.53 g, 94% | CN1C(C(=C(C=C1C1=CC(=CC=C1)C(F)(F)F)C)C(=O)O)=O | C15H12F3NO3
